Two-dimensional Junction Field-Effect Transistor (JFET)

VDD 1 0  0.5V
VGG 2 0 -1.0v AC 1V
VSS 3 0  0.0V
QJ1 1 2 3 M_NJF AREA=1

.MODEL M_NJF NBJT LEVEL=2
+ options jfet defw=10.0um
+ output dc.debug phin phip equ.psi vac.psi
+ x.mesh w=0.2 h.e=0.001 r=1.8
+ x.mesh w=0.8 h.s=0.001 h.m=0.1 r=2.0
+ x.mesh w=0.8 h.e=0.001 h.m=0.1 r=2.0
+ x.mesh w=0.2 h.s=0.001 r=1.8
+ y.mesh w=0.2 h.e=0.01  r=1.8
+ y.mesh w=0.8 h.s=0.01  h.m=0.1  r=1.8
+
+ domain num=1 mat=1 
+ material num=1 silicon
+ 
+ elec num=1 x.l=0.0 x.h=0.0 y.l=0.0 y.h=1.0
+ elec num=2 x.l=0.5 x.h=1.5 y.l=0.0 y.h=0.0
+ elec num=3 x.l=2.0 x.h=2.0 y.l=0.0 y.h=1.0
+
+ doping unif n.type conc=3.0e15
+ doping unif p.type conc=2.0e17 x.l=0.2 x.h=1.8 y.h=0.2
+
+ models bgn srh auger conctau concmob fieldmob ^aval

.option acct bypass=1 temp=27
*.op
.dc vgg 0.0 -2.0001 -0.1
*.ac dec 10 1k 100g
.print dc i(vss)

.end
